US08039472B2
NaH (60% dispersion in mineral oil, 86 mg, 2.14 mmol) is added to a solution of methyl indole-4-carboxylate (250 mg, 1.427 mmol) in DMF (20 ml) and the resulting suspension is stirred at room temperature for 30 minutes. After this time (2-(2-bromoethoxy)tetrahydro-2H-pyran (388 mg, 1.86 mmol) is added and the reaction is stirred at room temperature for 22 hours. Dilution with EtOAc (50 ml), washing with water (25 ml×3), saturated NaHCO3 (25 ml×2) and brine (25 ml), drying over MgSO4, concentration in vacuo and purification by chromatography (SiO2, DCM/MeOH) affords 1-[2-(Tetrahydro-pyran-2-yloxy)-ethyl]-1H-indole-4-carboxylic acid methyl ester; [M+H]+ 304

reactant | NaH | 2.14 mmol, 86 mg | [H-].[Na+]
reactant | methyl indole-4-carboxylate | 1.427 mmol, 250 mg | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 1.86 mmol, 388 mg | BrCCOC1OCCCC1 | C7H13BrO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-[2-(Tetrahydro-pyran-2-yloxy)-ethyl]-1H-indole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C=CN(C2C=CC1)CCOC1OCCCC1 | C17H21NO4
